US06362177B1
A mixture of (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4,5-methylenedioxy-2-nitrobenzyl)pyrrolidine prepared above, 10% Pd-activated carbone (22 mg), and methanol (3.0 mL) was stirred under a hydrogen atmosphere at room temperature overnight. The Pd catalyst was filtered off, and the filtrate was concentrated to afford (R)-1-(2-amino-4,5-methylenedioxybenzyl)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine (87.1 mg, quant.): Any remarkable by-products were not detected in TLC.

reactant | (R)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]-1-(4,5-methylenedioxy-2-nitrobenzyl)pyrrolidine | C(C)(C)(C)OC(=O)NC1=C(C(=O)NCC(=O)N[C@H]2CN(CC2)CC2=C(C=C3C(=C2)OCO3)[N+](=O)[O-])C=C(C=C1)C(F)(F)F | C27H30F3N5O8
catalyst | Pd | [Pd] | Pd
solvent | methanol | 3.0 mL | CO | CH4O
product | (R)-1-(2-amino-4,5-methylenedioxybenzyl)-3-[{N-(2-(tert-butoxycarbonylamino)-5-trifluoromethylbenzoyl)glycyl}amino]pyrrolidine | 87.1 mg | NC1=C(CN2C[C@@H](CC2)NC(CNC(C2=C(C=CC(=C2)C(F)(F)F)NC(=O)OC(C)(C)C)=O)=O)C=C2C(=C1)OCO2 | C27H32F3N5O6
